US05700801
b) N-[[4-(4-Pyridyl)-piperazin-1-yl]carbonyl]piperidin-4-carboxylic acid
Prepared by reacting methyl N-[[4-[4-pyridyl)-piperazin-1-yl]carbonyl]piperidin-4-carboxylate with semiconcentrated hydrochloric acid analogously Example 4.

reactant | methyl N-[[4-[4-pyridyl)-piperazin-1-yl]carbonyl]piperidin-4-carboxylate | N1=CC=C(C=C1)N1CCN(CC1)C(=O)N1CCC(CC1)C(=O)OC | C17H24N4O3
reactant | hydrochloric acid | Cl | ClH
product | N-[[4-(4-Pyridyl)-piperazin-1-yl]carbonyl]piperidin-4-carboxylic acid | N1=CC=C(C=C1)N1CCN(CC1)C(=O)N1CCC(CC1)C(=O)O | C16H22N4O3
